US08703742B2
7-Ethoxy-6-methoxy-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
Synthesized according to the methods of general procedure 9 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: [3-ethoxy-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (1.47 g, 4.80 mmol), nitromethane (0.92 g, 14.4 mmol), CATBr (88 mg, 0.24 mmol) in dry THF (20 mL) and NaOH (0.025 M aqueous solution). Purification by silica gel column chromatography (eluant: 10% EtOAc/hexane to 30% EtOAc/hexane) to obtain the title compound as a yellow solid (0.75 g, 59%). 1H NMR {400 MHz, DMSO-d6+D2O (0.01 ml)} δ (ppm) 9.34 (s, 1H), 7.18 (d, J=8.1 Hz, 1H), 7.11 (d, J=8.0 Hz, 1H), 5.68 (dd, J=9.2, 2.0 Hz, 1H), 5.29 (dd, J=13.2, 2.8 Hz, 1H), 4.55-4.50 (m, 1H), 4.20 (q, J=7.0 Hz, 2H), 3.77 (s, 3H), 1.27 (t, J=7.0 Hz, 3H); MS (ESI) m/z=261 (M−1, negative).

reactant | 3-ethoxy-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 4.80 mmol, 1.47 g | C(C)OC=1C(=C(C=O)C=CC1OC)B1OC(C(O1)(C)C)(C)C | C16H23BO5
reactant | nitromethane | 14.4 mmol, 0.92 g | [N+](=O)([O-])C | CH3NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NaOH | 0.025 M | [OH-].[Na+]
product | 7-Ethoxy-6-methoxy-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 0.75 g, 59% | C(C)OC1=C(C=CC2=C1B(OC2C[N+](=O)[O-])O)OC | C11H14BNO6
